US04716168
C. 5-Amino-2-(2-furyl)benzimidazole
A solution of 2-(2-furyl)-5-nitrobenzimidazole (52 g, 0.2 mole) in 1 liter of absolute ethyl alcohol is reduced (Parr apparatus) using 5 percent palladium on carbon (50 percent wet) catalyst. An uptake of 44 lbs. (100 percent of theory) of hydrogen in one-half hr is noted. After the reduction is complete the catalyst is removed by filtration. The filtrate is used in part D.

reactant | 2-(2-furyl)-5-nitrobenzimidazole | 0.2 mole, 52 g | O1C(=CC=C1)C=1NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C11H7N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl alcohol | 1 liter | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 5-Amino-2-(2-furyl)benzimidazole | NC1=CC2=C(N=C(N2)C=2OC=CC2)C=C1 | C11H9N3O
